US08212045B2
To acetonitrile (50 mL) was added sodium isothiocyanate (0.1469 g, 1.813 mmol), pyridine (0.3141 ml, 3.884 mmol), followed by (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride (0.4626 g, 1.554 mmol) and the resulting mixture was heated to 60° C. for 30 minutes. 3-(2,4-Dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine (0.500 g, 1.295 mmol) was added and the reaction was stirred overnight at 60° C. The reaction was concentrated in vacuo and the residue was partitioned between ethyl acetate and 1N NaOH. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4) and concentrated. The residue was purified over silica gel (100% ethyl acetate). Concentration of the major UV component with an Rf of 0.5 afforded (S)-N-(3-(2,4-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (0.360 g, 0.6561 mmol, 50.7% yield) as a light yellow powder.

reactant | sodium isothiocyanate | 1.813 mmol, 0.1469 g | [N-]=C=S.[Na+]
reactant | pyridine | 3.884 mmol, 0.3141 ml | N1=CC=CC=C1 | C5H5N
reactant | (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride | 1.554 mmol, 0.4626 g | CS(=O)(=O)ON=C([C@@H]1OC2(OC1)CCCCC2)Cl | C10H16ClNO5S
reactant | 3-(2,4-Dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine | 1.295 mmol, 0.500 g | CC1=NC=CC(=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)N)C | C17H16N4OS
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (S)-N-(3-(2,4-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 0.6561 mmol, 0.360 g, 50.7% yield | CC1=NC=CC(=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2)C | C27H28N6O3S2
